US07078414B2
1.04 g (7.5 mmol) of potassium carbonate are added at 20° C. under an argon atmosphere to 0.376 g (3 mmol) of 3-methoxycarbonyl-1H-pyrrole and 0.49 g (3 mmol) of 1-chloroisoquinoline dissolved in 6 mL of dimethyl sulphoxide. After stirring at 100° C. for 22 hours, the reaction mixture is poured into 15 mL of water and is then allowed to crystallise for 1 hour at 20° C. After filtering the reaction mixture and air-drying the solid residue, 0.67 g of 3-methoxycarbonyl-1-(isoquinol-1-yl)-1H-pyrrole is obtained in the form of a beige-coloured solid melting at 86° C. Mass spectrum (EI): m/e 252 (M+.), m/e 221.

reactant | potassium carbonate | 7.5 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxycarbonyl-1H-pyrrole | 3 mmol, 0.376 g | COC(=O)C1=CNC=C1 | C6H7NO2
reactant | 1-chloroisoquinoline | 3 mmol, 0.49 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | water | 15 mL | O | H2O
solvent | dimethyl sulphoxide | 6 mL | CS(=O)C | C2H6OS
product | 3-methoxycarbonyl-1-(isoquinol-1-yl)-1H-pyrrole | 0.67 g | COC(=O)C1=CN(C=C1)C1=NC=CC2=CC=CC=C12 | C15H12N2O2
